US04999356
A mixture of 5.2 g of 2-fluorobenzoic acid, 2-(2-chlorophenyl)hydrazide, 64.3 g of triphenylphosphine, 500 ml of anhydrous acetonitrile and 19.3 ml of carbon tetrachloride was stirred at ambient temperature for 16 hours, concentrated in vacuo, and extracted with diethyl ether (4×200 ml). The extract was filtered and concentrated to an oil which, was flash chromatographed on silica utilizing hexane/ethyl acetate (25%) as the eluent. Concentration of the appropriate fractions yielded 47.5 g of α-chloro-2-fluorobenzaldehyde, (2-chlorophenyl)hydrazone.

reactant | 2-fluorobenzoic acid, 2-(2-chlorophenyl)hydrazide | 5.2 g | ClC1=C(C=CC=C1)NNC(C1=C(C=CC=C1)F)=O | C13H10ClFN2O
reactant | triphenylphosphine | 64.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetonitrile | 500 ml | C(C)#N | C2H3N
reactant | carbon tetrachloride | 19.3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | α-chloro-2-fluorobenzaldehyde | 47.5 g | ClC(C1=C(C=CC=C1)F)=O | C7H4ClFO
